US07112593B2
c) 2-Benzyl-4-(2-pyrrolidinon-1-yl)phenyl trifluoromethanesulfonate
320 mg of 2-benzyl-4-(2-pyrrolidinon-1-yl)phenol, 520 mg of N-phenyltrifluoromethanesulfonimide, 15 mg of 4-dimethylaminopyridine and 0.5 ml of triethylamine were dissolved in 2.5 ml of dichloromethane, followed by stirring at room temperature overnight. The reaction mixture was purified by silica gel column chromatography with 30% ethyl acetate/hexane, to give 450 mg of the title compound.

reactant | 2-benzyl-4-(2-pyrrolidinon-1-yl)phenol | 320 mg | C(C1=CC=CC=C1)C1=C(C=CC(=C1)N1C(CCC1)=O)O | C17H17NO2
reactant | N-phenyltrifluoromethanesulfonimide | 520 mg | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
catalyst | 4-dimethylaminopyridine | 15 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 2.5 ml | ClCCl | CH2Cl2
product | 2-Benzyl-4-(2-pyrrolidinon-1-yl)phenyl trifluoromethanesulfonate | 450 mg | FC(S(=O)(=O)OC1=C(C=C(C=C1)N1C(CCC1)=O)CC1=CC=CC=C1)(F)F | C18H16F3NO4S
